US08119842B2
A suspension of 8-fluoro-6-phenylsulfanyl-3,4-dihydro-naphthalene-1-carboxylic acid amide (1.46 kg) in methanol (23.2 kg) and [Ru(OAc)2((S)-MeOBIPHEP)] (1.83 g) in methanol (1.5 liters) were combined and subjected to hydrogenation at 40° C. and 150 psig (10.3 bar). Completion of the reaction to form (R)-8-fluoro-6-phenylsulfanyl-1,2,3,4-tetrahydro-naphthalene-1-carboxylic acid amide (not isolated) was monitored by HPLC. The resulting reaction solution was distilled and the solvent exchanged from methanol to THF (7.6 kg). Analysis of an aliquot of the THF solution provided the following data: MP=167.4-168.2° C.; MS (M+1)=302; H1 NMR (300 MHz): δ (DMSO): 1.56-1.84 (2H, m), 1.91 (2H, m), 2.66 (2H, m), 3.67 (1H, t, J=5.65 Hz), 6.80 (1H, dd, J=1.88, 10.17 Hz), 6.88 (1H, bs, NH), 6.92 (1H, m), 7.32-7.44 (6H, m, Phenyl, NH): [α]D=30.5° (MeOH). Chiral Assay (Area Norm): Column: ChiralCel OD-H (250×4.6 mm), mobile phase 85/15 hexane/ethanol(isocratic) Flow rate 0.7 ml/min, 25° C., uv @230 nm.: (R)-isomer 99.32/(S)-isomer 0.68.

reactant | 8-fluoro-6-phenylsulfanyl-3,4-dihydro-naphthalene-1-carboxylic acid amide | 1.46 kg | FC=1C=C(C=C2CCC=C(C12)C(=O)N)SC1=CC=CC=C1 | C17H14FNOS
solvent | methanol | 23.2 kg | CO | CH4O
solvent | methanol | 1.5 liters | CO | CH4O
product | (R)-8-fluoro-6-phenylsulfanyl-1,2,3,4-tetrahydro-naphthalene-1-carboxylic acid amide | FC=1C=C(C=C2CCC[C@H](C12)C(=O)N)SC1=CC=CC=C1 | C17H16FNOS
